US06437146B1
To a solution of (±)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenylamine (110 mg, 0.27 mmol) in methylene chloride (3 ml) was added benzenesulfonylisocyanate (0.037 ml, 0.27 mmol) at 5° C., and the mixture was stirred at room temperature for 1 hour. The reaction mixture was evaporated, and the residue was purified by silica gel column chromatography (methylene chloride-MeOH, 30:1 elution) to give (±)-1-benzenesulfonyl-3-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenyl}urea (159.0 mg, 100%).

reactant | (±)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenylamine | 0.27 mmol, 110 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C=CC1)N | C28H26N2O
reactant | benzenesulfonylisocyanate | 0.27 mmol, 0.037 ml | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | (±)-1-benzenesulfonyl-3-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenyl}urea | 159.0 mg, 100% | C1(=CC=CC=C1)S(=O)(=O)NC(=O)NC1=CC(=CC=C1)CC1C(=CCCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C35H31N3O4S
